US04218461
B. 2,3-Dihydro-2-[(1H-imidazol-1-yl)-methylene]-3-phenyl-1H-inden-1-one
Following the procedure according to Example 1B, except reacting 2,3-dihydro-2-(hydroxymethylene)-3-phenyl-1H-inden-1-one with carbonyl-bis-imidazole, the title compound is produced, m.p. 204°-206° C. (ethanol); yield 72%.

reactant | 2,3-dihydro-2-(hydroxymethylene)-3-phenyl-1H-inden-1-one | OC=C1C(C2=CC=CC=C2C1C1=CC=CC=C1)=O | C16H12O2
reactant | carbonyl-bis-imidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
product | 2,3-Dihydro-2-[(1H-imidazol-1-yl)-methylene]-3-phenyl-1H-inden-1-one | yield 72% | N1(C=NC=C1)C=C1C(C2=CC=CC=C2C1C1=CC=CC=C1)=O | C19H14N2O
